.subckt Inverter in out high low
    M1 high in out high CMOSP W={width_P} L={2*LAMBDA}
    + AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
    M2 out in low low CMOSN W={width_N} L={2*LAMBDA}
    + AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
.ends Inverter

* Changed widths to make the circuit faster, NMOS to 1.5 times the size
.subckt NOR_Gate A B out high low

    MPUN_01 high A NOR_Inter high CMOSP W={2*width_P} L={2*LAMBDA}
    + AS={5*2*width_P*LAMBDA} PS={10*LAMBDA+2*2*width_P} AD={5*2*width_P*LAMBDA} PD={10*LAMBDA+2*2*width_P}

    MPUN_02 NOR_Inter B out NOR_Inter CMOSP W={2*width_P} L={2*LAMBDA}
    + AS={5*2*width_P*LAMBDA} PS={10*LAMBDA+2*2*width_P} AD={5*2*width_P*LAMBDA} PD={10*LAMBDA+2*2*width_P}

    MPDN_01 out A low low CMOSN W={1.5*width_N} L={2*LAMBDA}
    + AS={5*1.5*width_N*LAMBDA} PS={10*LAMBDA+2*1.5*width_N} AD={5*1.5*width_N*LAMBDA} PD={10*LAMBDA+2*1.5*width_N}

    MPDN_02 out B low low CMOSN W={1.5*width_N} L={2*LAMBDA}
    + AS={5*1.5*width_N*LAMBDA} PS={10*LAMBDA+2*1.5*width_N} AD={5*1.5*width_N*LAMBDA} PD={10*LAMBDA+2*1.5*width_N}

.ends NOR_Gate

.subckt OR_Gate A B out high low

    XNOR A B out_inter vdd gnd NOR_Gate
    XInverter out_inter out vdd gnd Inverter

.ends OR_Gate

.subckt NAND_Gate A B out high low

    MPUN_01 high A out high CMOSP W={width_P} L={2*LAMBDA}
    + AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}

    MPUN_02 high B out high CMOSP W={width_P} L={2*LAMBDA}
    + AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}

    MPDN_01 out A NAND_PDN_Inter NAND_PDN_Inter CMOSN W={2*width_N} L={2*LAMBDA}
    + AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*2*width_N}

    MPDN_02 NAND_PDN_Inter B low low CMOSN W={2*width_N} L={2*LAMBDA}
    + AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*2*width_N}

.ends NAND_Gate

.subckt AND_Gate A B out high low

    XNAND A B out_inter vdd gnd NAND_Gate
    XInverter out_inter out vdd gnd Inverter

.ends AND_Gate

* Changed widths to make the circuit faster, half the size
.subckt XOR_Gate A A_not B out high low

    * Inverter logic - Careful with the body nodes
    M3 A B out high CMOSP W={0.5*width_P} L={2*LAMBDA}
    + AS={5*0.5*width_P*LAMBDA} PS={10*LAMBDA+2*0.5*width_P} AD={5*0.5*width_P*LAMBDA} PD={10*LAMBDA+2*0.5*width_P}
    M4 out B A_not low CMOSN W={0.5*width_N} L={2*LAMBDA}
    + AS={5*0.5*width_N*LAMBDA} PS={10*LAMBDA+2*0.5*width_N} AD={5*0.5*width_N*LAMBDA} PD={10*LAMBDA+2*0.5*width_N}

    * Analog Transmission gate
    M1 out A B high CMOSP W={0.5*width_P} L={2*LAMBDA}
    + AS={5*0.5*width_P*LAMBDA} PS={10*LAMBDA+2*0.5*width_P} AD={5*0.5*width_P*LAMBDA} PD={10*LAMBDA+2*0.5*width_P}
    M2 out A_not B low CMOSN W={0.5*width_N} L={2*LAMBDA}
    + AS={5*0.5*width_N*LAMBDA} PS={10*LAMBDA+2*0.5*width_N} AD={5*0.5*width_N*LAMBDA} PD={10*LAMBDA+2*0.5*width_N}

.ends XOR_Gate